US06121283
N-[2-(4-Bromo-phenyl)ethyl]-formamide (1)
500 g (1.78 mol) of 2-(4-Bromo-phenyl)ethylamine hydrobromide, 1 liter (12.4 mol) of ethyl formate and 248 mL (1.78 mol) of triethylamine were combined and heated to reflux for 3 hrs. The reaction was treated with 1 liter each of deionized water and ethyl acetate. The organic layer was separated and washed with 1 liter each of water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated to yield 378 g of a solid.

reactant | 2-(4-Bromo-phenyl)ethylamine hydrobromide | 1.78 mol, 500 g | Br.BrC1=CC=C(C=C1)CCN
reactant | ethyl formate | 12.4 mol, 1 liter | C(=O)OCC | C3H6O2
reactant | triethylamine | 1.78 mol, 248 mL | C(C)N(CC)CC | C6H15N
reactant | water | 1 liter | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(4-Bromo-phenyl)ethyl]-formamide | 378 g | BrC1=CC=C(C=C1)CCNC=O | C9H10BrNO
